US07718693B2
5-oxo-1-phenyl-proline (0.047 g, 0.23 mmol, prepared as described below) was dissolved in dichloromethane (˜2 ml) and dimethylformamide (1 ml) and to this was added 1-hydroxybenzotriazole (0.034 g, 0.25 mmol), [(2-chloro-4-fluorophenyl)methyl]amine (0.040 g, 0.25 mmol), N-ethyl morpholine (0.032 ml, 0.25 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.048 g, 0.25 mmol). The mixture was stirred at room temperature for 4.5 hrs. The mixture was diluted with more dichloromethane and washed sequentially with 2M aqueous hydrogen chloride and saturated aqueous sodium hydrogen carbonate. The organic layer was filtered through a phase separator and then evaporated to give the crude product. The crude material was purified by mass-directed automated HPLC to give pure N-[(2-chloro-4-fluorophenyl)methyl]-5-oxo-1-phenyl-prolinamide (0.032 g) as a white solid. LC/MS [M+H]+=347.1, retention time=2.51 minutes.

reactant | 5-oxo-1-phenyl-proline | 0.23 mmol, 0.047 g | O=C1CC[C@H](N1C1=CC=CC=C1)C(=O)O | C11H11NO3
reactant | 1-hydroxybenzotriazole | 0.25 mmol, 0.034 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | [(2-chloro-4-fluorophenyl)methyl]amine | 0.25 mmol, 0.040 g | ClC1=C(C=CC(=C1)F)CN | C7H7ClFN
reactant | N-ethyl morpholine | 0.25 mmol, 0.032 ml | C(C)N1CCOCC1 | C6H13NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.25 mmol, 0.048 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | ˜2 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[(2-chloro-4-fluorophenyl)methyl]-5-oxo-1-phenyl-prolinamide | 0.032 g | ClC1=C(C=CC(=C1)F)CNC([C@H]1N(C(CC1)=O)C1=CC=CC=C1)=O | C18H16ClFN2O2
